US08871760B2
A mixture of 2-chloro-6-(4-fluoro-phenyl)-pyrazine (1.0 g, 4.7 mmol) and anhydrous hydrazine (1.5 mL, 47 mmol) in dioxane (20 mL) was heated to reflux for two hours, then cooled and diluted with cold water. The resulting precipitate was collected by filtration, washed with cold water, and dried to give 0.85 g of [6-(4-fluoro-phenyl)-1H-pyrazin-(2Z)-ylidene]-hydrazine.

reactant | 2-chloro-6-(4-fluoro-phenyl)-pyrazine | 4.7 mmol, 1.0 g | ClC1=NC(=CN=C1)C1=CC=C(C=C1)F | C10H6ClFN2
reactant | hydrazine | 47 mmol, 1.5 mL | NN | H4N2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | [6-(4-fluoro-phenyl)-1H-pyrazin-(2Z)-ylidene]-hydrazine | 0.85 g | FC1=CC=C(C=C1)C1=CN=C/C(/N1)=N/N | C10H9FN4
